### PR TITLE
def: quasigroups

### PR DESCRIPTION
**Pull request by TOTBWF**
# Description

This PR defines defines quasigroups, and proves some very basic properties about them.

## Checklist

Before submitting a merge request, please check the items below:

- [x] I've read [the contributing guidelines](https://github.com/plt-amy/1lab/blob/main/CONTRIBUTING.md).
- [x] The imports of new modules have been sorted with `support/sort-imports.hs` (or `nix run --experimental-features nix-command -f . sort-imports`).
- [x] All new code blocks have "agda" as their language.

If your change affects many files without adding substantial content, and
you don't want your name to appear on those pages (for example, treewide
refactorings or reformattings), start the commit message and PR title with `chore:`.

### CODE REVIEW

File: src/Algebra/Quasigroup.lagda.md [hunk 1]
```diff
@@ -0,0 +1,898 @@
...
+
+## Left quasigroups
+
+We can dualize the definition of right quasigroups to arrive at the
+notion of a **left quasigroup**.
+
+:::{.definition #left-quasigroup}
+Let $\star : A \to A \to A$ be a binary operator. $(A, \star)$ is a
+**left quasigroup** if $(A, \star)$ is a [[magma]], and there is some
+binary operator $\backslash : A \to A A$, subject to the following axioms:
```
Comment (ncfavier) [inline src/Algebra/Quasigroup.lagda.md:326]:
```suggestion
binary operator $\backslash : A \to A \to A$, subject to the following axioms:
```

File: src/Algebra/Quasigroup.lagda.md [hunk 2]
```diff
@@ -0,0 +1,898 @@
...
+
+- For all $x, y : A$, $x \star (x \backslash y) = y$
+- For all $x, y : A$, $(x \star y) \backslash x = y$
```
Comment (ncfavier) [inline src/Algebra/Quasigroup.lagda.md:329]:
```suggestion
- For all $x, y : A$, $x \backslash (x \star y) = y$
```

File: src/Algebra/Quasigroup.lagda.md [hunk 3]
```diff
@@ -0,0 +1,898 @@
...
+  ∙e is-right-quasigroup≃⋆-equivr
+```
+-->
+
+### Left quasigroup homomorphisms
+
+We can continue dualizing to define a notion of homomorphism for
+left quasigroups, though we shall be much more terse in our development.
+Following the pattern of right quasigroups, we begin by defining
+**left quasigroup structures**
```
Comment (ncfavier) [inline src/Algebra/Quasigroup.lagda.md:477]:
```suggestion
**left quasigroup structures**.
```

File: src/Algebra/Quasigroup.lagda.md [hunk 4]
```diff
@@ -0,0 +1,898 @@
...
+<!--
+```agda
+  open is-left-quasigroup has-is-left-quasigroup public
+  open is-right-quasigroup has-is-right-quasigroup
+    hiding (has-is-magma; underlying-set; magma-hlevel; has-is-set) public
+```
+-->
+
+Quasigroups obey the **latin square property**: for every $x, y : A$,
+there exists a unique pair $l, r : A$ such that $l \star x = y$ and $x \star = y$.
```
Comment (ncfavier) [inline src/Algebra/Quasigroup.lagda.md:634]:
```suggestion
there exists a unique pair $l, r : A$ such that $l \star x = y$ and $x \star r = y$.
```

File: src/Algebra/Quasigroup/Instances/Group.lagda.md [hunk 5]
```diff
@@ -0,0 +1,169 @@
...
+       (x ⋆ (x ⧵ a)) ⋆ y ≡⟨ ap (_⋆ y) (⧵-invr x a) ⟩
+       a ⋆ y             ≡˘⟨ comm ⟩
+       x ⋆ b             ≡˘⟨ ap (x ⋆_) (/-invl b y) ⟩
+       x ⋆ ((b / y) ⋆ y) ≡⟨ ⋆-assoc x (b / y) y ⟩
+       (x ⋆ (b / y)) ⋆ y ∎
+```
+
+With that out of the way, we shall show that
+
+$$(A, \star, (a \backslash a), (\lambda x. (a ⧵backslash a) / x))$$
```
Comment (ncfavier) [inline src/Algebra/Quasigroup/Instances/Group.lagda.md:129]:
```suggestion
$$(A, \star, (a \backslash a), (\lambda x. (a \backslash a) / x))$$
```

File: src/Algebra/Quasigroup/Instances/Group.lagda.md [hunk 6]
```diff
@@ -0,0 +1,169 @@
...
+    ⋆-group a .unit = a ⧵ a
+    ⋆-group a .mul x y = x ⋆ y
+    ⋆-group a .inv x = (a ⧵ a) / x
+```
+
+Associativity is one of our hypotheses, so all that remains is left
+inverses and left identities. Next, note that
+
+$$
+(a \backslash a), (\lambda x. (a ⧵backslash a) / x)) \star x = (a \backslash a)
```
Comment (ncfavier) [inline src/Algebra/Quasigroup/Instances/Group.lagda.md:145]:
```suggestion
(a \backslash a), (\lambda x. (a \backslash a) / x)) \star x = (a \backslash a)
```

**Review by ncfavier — APPROVED** [review]
